* Capacitor (4 terminal w/separate shield) value test

* Include SkyWater sky130 device models
.include "../sky130_fd_pr__cap_vpp_11p5x11p7_l1m1m2m3m4_shieldm5_top.spice"
.lib "../../../models/sky130.lib.spice" tt

.param freq = 1Meg
.csparam freq = {freq}

* Resistor bridge with capacitance
V1 N2 0 1.8
IAC N3 N4 dc 0 ac 1

X1 N3 N4 0 0 sky130_fd_pr__cap_vpp_11p5x11p7_l1m1m2m3m4_shieldm5_top
* C34 N3 N4 50E-15

R1 N3 0 1.1Meg
R2 N4 0 1.2Meg
R3 N2 N3 1.3Meg
R4 N2 N4 1.4Meg

.ac lin 1 {freq} {freq}
.control
run
echo capacitance
print imag(1/v(N4,N3))/2/PI/freq
quit
.endc

.end
